US05286721
To a stirred solution of (2S,3R)-1-(N-allyloxycarbonyl-N-methylamino)-2-allyloxycarbonylaminomethyl-3-t-butyldimethylsilyloxybutane (28.18 g) in ethyl acetate (500 ml) was added hydrochloric acid (6N, 17 ml), and the resulting mixture was stirred at ambient temperature for 2 hours. The reaction mixture was washed in turn with cold water, aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation of the solvent gave a residue which was chromatographed on silica gel (500 ml) eluting with a mixture of n-hexane and ethyl acetate (9:1-6:4, V/V) to give (2S,3R)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-1-allyloxycarbonylamino-3-hydroxybutane (20.11 g).

reactant | (2S,3R)-1-(N-allyloxycarbonyl-N-methylamino)-2-allyloxycarbonylaminomethyl-3-t-butyldimethylsilyloxybutane | 28.18 g | C(C=C)OC(=O)N(C)C[C@@H]([C@@H](C)O[Si](C)(C)C(C)(C)C)CNC(=O)OCC=C | C20H38N2O5Si
reactant | hydrochloric acid | 6N, 17 ml | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3R)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-1-allyloxycarbonylamino-3-hydroxybutane | 20.11 g | C(C=C)OC(=O)N(C)C[C@H](CNC(=O)OCC=C)[C@@H](C)O | C14H24N2O5
